US06469006B1
Mono-benzoylation of unsymmetric substituted piperazines could be achieved by using one of the following procedures (Scheme 8), in which all the methods were exemplified by mono-alkyl substituted piperazines. (a) Unsymmetric piperazines were treated with 2 equivalents of n-butyllithium, followed by the addition of benzoyl chloride at room temperature to afford a mixture of two regioisomers, which could be separated by chromatography (Wang et al, Ref. 32 and 33(b), Scheme 8 eq. 06); (b) Benzoic acid was converted to its pentafluorophenyl ester, and then further reaction with 2-alkylpiperazine to provide the mono-benzoylpiperazines with the benzoyl group at the less hindered nitrogen (Adamczyk et al, Ref. 33(a), Scheme 8, eq. 07); (c) A mixture of piperazine and methyl benzoate was treated with dialkylaluminum chloride in methylene chloride for 2-4 days to yield the mono-benzoylpiperazine with the benzoyl group at the less hindered nitrogen (Scheme 8, eq. 08); (d) Unsymmetric piperazines were treated with 2 equivalents of n-butyllithium, followed by subsequent addition of triethylsilyl chloride and benzoyl chloride in THF at room temperature to afford mono-benzoylpiperazines with the benzoyl group at the more hindered nitrogen (Wang et al, Ref. 33(b), Scheme 8, eq. 09). When the substituent at position 2 was a ester or amide, the mono-benzoylation with benzoyl chloride occurred at the less hindered nitrogen of the piperazine with triethylamine as base in THF (Scheme 8, eq. 10).

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | mono-benzoylpiperazine | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
